US06033551
SYNTHESIS OF BISMUTH 2-ETHYLHEXANOATE
The electrolyzer of FIG. 1 was used to assist the reaction. The anolyte contained a solution formed from 10 ml of 2-ethylhexanoic acid, 1.6 g of ammonium 2-ethylhexanoate, and 90 ml of methanol. The anode was a bismuth plate having a surface area of 10 cm2. The catholyte solution contained 3 ml of 2-ethylhexanoic acid, 0.5 g of ammonium 2-ethylhexanoate, and 27 ml of methanol. A graphite cathode having a surface area of 10 cm2 was utilized. Electrolysis was conducted using a current of 0.100 amps for 20 hours. A 2 ml quantity of 2-ethylhexanoic acid was added to the catholyte solution every 3 hours. The anolyte solution was removed from the electrolyzer and filtered. The mother liquor was cooled to a temperature ranging from about 0-2° C. to precipitate crystals. The crystals were isolated by filtration, washed with methyl alcohol, and dried in a vacuum heater at a temperature ranging from about 50-60° C. for a duration of 7-8 hours. The product included 14.3 g of a viscous transparent liquid, namely, Bi(C7H15COO)3. Table 2 presents the analytical data for the product.

reactant | bismuth | [Bi] | Bi
reactant | 2-ethylhexanoic acid | 3 ml | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | ammonium 2-ethylhexanoate | 0.5 g | C(C)C(C(=O)[O-])CCCC.[NH4+]
solvent | methanol | 27 ml | CO | CH4O
product | BISMUTH 2-ETHYLHEXANOATE | C(C)C(C(=O)[O-])CCCC.[Bi+3].C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC | InChI=1S/3C8H16O2.Bi/c3*1-3-5-6-7(4-2)8(9)10;/h3*7H,3-6H2,1-2H3,(H,9,10);/q;;;+3/p-3
